US08242125B2
TFA (1 mL, 13.0 mmol) is added to a solution of 4-[1-(2-fluoro-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (0.125 g, 0.219 mmol) and DCM (2.5 mL). After 1 h the solution is concentrated in vacuo. The residue is taken up in MeOH and neutralized to pH 7 by the addition of NH4OH and the solution is separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give 5-(5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (2-fluoro-5-trifluoromethyl-phenyl)-amide. MS (ESI) m/z 472.1 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 8.40 (s, 1H), 8.25 (d, J=8.8 Hz, 1H), 8.07 (d, J=3.8 Hz, 1H), 8.03-8.07 (m, 1H), 7.67-7.75 (m, 1H), 7.56-7.64 (m, 1H), 7.45 (d, J=2.5 Hz, 1H), 7.11 (dd, J=9.0, 2.4 Hz, 1H), 6.79 (d, J=3.5 Hz, 1H), 3.83 (s, 2H), 3.04 (t, J=5.8 Hz, 2H), 2.73 (t, J=5.6 Hz, 2H).

reactant | TFA | 13.0 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-[1-(2-fluoro-5-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.219 mmol, 0.125 g | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1)OC=1C=C2C=CN(C2=CC1)C(NC1=C(C=CC(=C1)C(F)(F)F)F)=O | C28H25F4N5O4
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 5-(5,6,7,8-Tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (2-fluoro-5-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2 | C23H17F4N5O2
